US08217064B2
4-Methyl-2-(2,3′,4′-trichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-pentanoic acid cyclopropylmethyl ester (0.37 g, 0.75 mmol) was dissolved in a mixture of EtOH and H2O (9 mL/1 mL) and KOH (0.2 g, 3.6 mmol) was added. The reaction mixture was refluxed for 2 h and after cooling the solvent was evaporated. Then, 6 N HCl was added to adjust the pH to 5, and the reaction mixture was extracted with EtOAc (3×10 mL). The organic phase was dried over MgSO4 and evaporated under reduced pressure to give 4-methyl-2-(2,3′,4′-trichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-pentanoic acid as a white solid (0.30 g, 90%). M.p.=118-119° C. 1H NMR (300 MHz, CDCl3/TMS): δ 9.70 (br s, 1H), 7.47 (d, J=8.3 Hz, 1H), 7.42 (d, J=1.6 Hz, 1H), 7.53 (dd, J=8.2, 1.4 Hz, 1H), 7.07 (s, 1H), 6.83 (s, 1H), 3.78 (d, J=6.3 Hz, 2H), 3.63 (t, J=7.3 Hz, 1H), 2.02-1.93 (m, 1H), 1.74-1.65 (m, 1H), 1.59-1.51 (m, 1H), 1.11-1.00 (m, 1H), 0.94 (d, J=6.3 Hz, 6H), 0.54-0.47 (m, 2H), 0.24-0.16 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 179.4, 157.0, 140.3, 134.8, 133.9, 132.5, 131.6, 131.3, 129.9, 129.6, 127.0, 121.5, 111.1, 73.3, 49.4, 42.0, 25.9, 22.6, 22.3, 10.0, 3.1.

reactant | 4-Methyl-2-(2,3′,4′-trichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-pentanoic acid cyclopropylmethyl ester | 0.75 mmol, 0.37 g | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C(=C1)OCC1CC1)C1=CC(=C(C=C1)Cl)Cl)Cl)=O | C26H29Cl3O3
reactant | KOH | 3.6 mmol, 0.2 g | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
solvent | H2O | 9 mL | O | H2O
product | 4-methyl-2-(2,3′,4′-trichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-pentanoic acid | 0.30 g, 90% | CC(CC(C(=O)O)C1=CC(=C(C(=C1)OCC1CC1)C1=CC(=C(C=C1)Cl)Cl)Cl)C | C22H23Cl3O3
